US07842694B2
3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-N-[1-(difluoromethyl)-1H-pyrazol-3-yl]-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide
1-Chloro-N,N,2-trimethyl-1-propenylamine (0.088 mL, 0.66 mmol) was added to a solution of 3-{[6-(azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-[(3S)-tetrahydrofuran-3-yloxy]benzoic acid (171 mg, 0.44 mmol) in DCM (10 mL) and the reaction was stirred at RT for 30 minutes. After this time 1-(difluoromethyl)pyrazol-3-amine hydrochloride (75 mg, 0.44 mmol) and DIPEA (0.154 mL, 0.89 mmol) were added sequentially. The resulting solution was stirred at RT for 16 hours after which time the solvent was removed in vacuo and ethyl acetate (20 mL) and water (20 mL) were added. The aqueous phase was extracted with ethyl acetate (2×20 mL), washed with a saturated solution of sodium hydrogen carbonate (20 mL), and brine (20 mL). The combined organic extracts were dried (MgSO4), filtered and evaporated. The residue was purified by flash column chromatography on silica, eluting with 50-100% ethyl acetate in isohexane, to give the desired product as a white solid (132 mg). 1H NMR δ (CDCl3): 2.40-2.12 (m, 4H), 4.03-3.89 (m, 4H), 4.25 (t, 2H), 4.71 (t, 2H), 5.01-4.96 (m, 1H), 6.76 (t, 1H), 7.03 (t, 1H), 7.08 (d, 1H), 7.11 (s, 1H), 7.22 (s, 1H), 7.38 (dd, 1H), 7.75 (d, 1H), 8.13 (d, 1H), 8.33 (d, 1H), 8.50 (s, 1H); 19F NMR δ (CDCl3): −93.84; m/z 500 (M+H)+.

reactant | 1-Chloro-N,N,2-trimethyl-1-propenylamine | 0.66 mmol, 0.088 mL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 3-{[6-(azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-5-[(3S)-tetrahydrofuran-3-yloxy]benzoic acid | 0.44 mmol, 171 mg | N1(CCC1)C(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)O)C=C(C1)O[C@@H]1COCC1 | C20H20N2O6
reactant | 1-(difluoromethyl)pyrazol-3-amine hydrochloride | 0.44 mmol, 75 mg | Cl.FC(N1N=C(C=C1)N)F
reactant | DIPEA | 0.89 mmol, 0.154 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-{[6-(Azetidin-1-ylcarbonyl)pyridin-3-yl]oxy}-N-[1-(difluoromethyl)-1H-pyrazol-3-yl]-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | 132 mg | N1(CCC1)C(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)NC2=NN(C=C2)C(F)F)C=C(C1)O[C@@H]1COCC1 | C24H23F2N5O5
